US08080580B2
(4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-ethoxy-benzyl)-4-methyl-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol (I-2i)
n-Butyl lithium (0.312 mL, 2.5 M/hexanes, 3.05 equivalents) was added dropwise (1 drop every 5 seconds) to an oxygen degassed solution (placed in a pre dried Biotage™ microwave vial 10-20 mL sealed with its cap and placed under a positive stream of nitrogen gas) of 4-bromo-2-(4-ethoxy-benzyl)-1-methyl-benzene (238 mg, 3.05 equivalents) in anhydrous tetrahydrofuran (0.9 mL) at −78° C. and the resulting solution was stirred at this temperature for an additional hour. A solution of (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide (I-1g) (200 mg) in anhydrous tetrahydrofuran (0.6 mL) was then added dropwise over 1.5 hours using a syringe pump and the resulting mixture was stirred at −78° C. for 1 hour before being allowed to warm to room temperature over 16 hours (put in a deep Dewar covered with aluminum foil to maintain cold temperature; size of Dewar: external diameter 10 cm, internal diameter 8 cm, height 9 cm). Diethyl ether was added and the reaction was quenched by dropwise addition of aqueous 1M hydrochloric acid solution. The resulting biphasic mixture was stirred at room temperature for 15 minutes. The organic phase was separated, washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude material was chromatographed using the Biotage™ automated chromatography unit (two stacked 10 g silica gel columns; eluting with a gradient of 0 to 60% ethyl acetate in heptane) to give the product as a mixture of isomers (136 mg, 56% yield). MS (LCMS) 968 (M+Na+; positive mode).

reactant | n-Butyl lithium | 2.5 M, 0.312 mL, 3.05 equivalents | C(CCC)[Li]
reactant | oxygen | O=O | O2
reactant | 4-bromo-2-(4-ethoxy-benzyl)-1-methyl-benzene | 238 mg, 3.05 equivalents | BrC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OCC | C16H17BrO
reactant | (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide | 200 mg | CON(C([C@@H]([C@H]([C@@H](C(COCC1=CC=C(C=C1)OC)(COCC1=CC=C(C=C1)OC)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C46H53NO10
reactant | aluminum | [Al] | Al
reactant | tetrahydrofuran | 0.9 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | (4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-ethoxy-benzyl)-4-methyl-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol | 56% yield | C(C1=CC=CC=C1)OC1C(OC([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)(O)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OCC | C60H64O10
